US08791107B2
1-(4-(5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea
The title compound was prepared in a manner similar to EXAMPLE 5 using 2-chloro-5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x6, 175 mg, 0.408 mmol), (1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea (225 mg, 0.815 mmol) and PdCl2(dppf) (14.91 mg, 0.020 mmol) in dioxane (5 mL) and aqueous saturated NaHCO3 (1 mL). 1H NMR (400 MHz, DMSO-d6) δ 2.61-2.71 (m, 3H), 3.28-3.31 (m, 2H), 3.53-3.66 (m, 1H), 3.87-4.02 (m, 2H), 4.03-4.15 (m, 1H), 4.59-4.79 (m, 2H), 4.79-4.91 (m, 1H), 6.14-6.25 (m, 1H), 7.32-7.38 (m, 1H), 7.53-7.62 (m, 2H), 7.63-7.71 (m, 1H), 7.81-7.90 (m, 1H), 7.99-8.12 (m, 3H), 8.91-9.05 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H27ClN6O4S, 543.15. found 543.5.

reactant | 2-chloro-5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.408 mmol, 175 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)COCC3 | C17H18Cl2N4O3S
reactant | 1-methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 0.815 mmol, 225 mg | CNC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H21BN2O3
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 0.020 mmol, 14.91 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(4-(5-(2-chloro-4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridin-2-yl)phenyl)-3-methylurea | ClC1=C(CN2C=3C=NC(=NC3N3C(C2)COCC3)C3=CC=C(C=C3)NC(=O)NC)C=CC(=C1)S(=O)(=O)C | C25H27ClN6O4S
